US05693809
Preparation of 20-(3-carboxypropionyloxy)-4-methyl-5α-4-azapregnan-3-one
20-(3-(Carbobenzyloxy)propionyloxy)-4-methyl-5a-4-azapregnan-3-one (0.05 g, 0.095 mM) was reduced with hydrogen in ethyl acetate in the presence of 5% palladium on carbon, to obtain the title compound. MS M+1 calculated for C25H39NO5, mw=433.64; observed m/e 434.

reactant | 20-(3-(Carbobenzyloxy)propionyloxy)-4-methyl-5a-4-azapregnan-3-one | 0.095 mM, 0.05 g | C(=O)(OCC1=CC=CC=C1)CCC(=O)OC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4N(C(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C32H45NO5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 20-(3-carboxypropionyloxy)-4-methyl-5α-4-azapregnan-3-one | C(=O)(O)CCC(=O)OC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4N(C(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C25H39NO5
